US08030334B2
A flask is charged with N-methyl-N-methoxy-nicotinamide (1.0 g, 6.02 mmol) and THF (10 mL). Propyl magnesium chloride (2M in THF, 3.31 mL, 6.62 mmol) is added and the mixture is stirred at room temperature overnight. It is quenched with saturated sodium bicarbonate solution and extracted with dichloromethane. The combined organic layer is dried over sodium sulfate and concentrated in vacuo to afford 1-pyridin-3-yl-butan-1-one as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.03 (t, J=7.5 Hz, 3H), 1.74-1.87 (m, 2H), 2.97 (t, J=7.3 Hz, 2H), 7.42 (dd, J=8.0, 4.9 Hz, 1H), 8.24 (dt, J=8.0, 2.0, 1.9 Hz, 1H), 8.78 (dd, J=4.9, 2.0 Hz, 1H), 9.18 (d, J=2.0 Hz, 1H).

reactant | N-methyl-N-methoxy-nicotinamide | 6.02 mmol, 1.0 g | CN(C(C1=CN=CC=C1)=O)OC | C8H10N2O2
reactant | Propyl magnesium chloride | 6.62 mmol, 2M, 3.31 mL | C(CC)[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-pyridin-3-yl-butan-1-one | N1=CC(=CC=C1)C(CCC)=O | C9H11NO
